US05866568
Tetrakis(triphenylphosphine)palladium (0) (60 mg) was added to a deoxygenated solution of sodium carbonate (233 mg), 1,4-benzenediboronic acid (165 mg), 2-chloropyrimidine (114.5 mg) and 2-chloro-N-(isobutoxycarbonyl)-N-(3-methoxy-5-methylpyrazin-2-yl)pyridine-3-sulphonamide (414 mg) in a mixture of water (1.6 ml), ethanol (4 ml) and toluene (8 ml). The mixture was stirred and heated under argon under reflux for 16 hours and then allowed to cool to ambient temperature. Water (15 ml) was added and the mixture was extracted with ethyl acetate (2×20 ml). The combined organic layers were washed with saturated sodium chloride solution and dried (MgSO4). Volatile material was removed by evaporation and the residue was purified by chromatography on a silica gel Mega Bond Elut column, eluting with 25-100% ethyl acetate/hexane to give N-isobutoxycarbonyl-N-(3-methoxy-5-methylpyrazin-2-yl)-2-(4-[pyrimidin-2-yl]phenyl)pyridine-3-sulphonamide (95 mg) as a solid, mass spectrum (+ve ESP): 535 (M+H)+.

reactant | sodium carbonate | 233 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1,4-benzenediboronic acid | 165 mg | C1(=CC=C(C=C1)B(O)O)B(O)O | C6H8B2O4
reactant | 2-chloropyrimidine | 114.5 mg | ClC1=NC=CC=N1 | C4H3ClN2
reactant | 2-chloro-N-(isobutoxycarbonyl)-N-(3-methoxy-5-methylpyrazin-2-yl)pyridine-3-sulphonamide | 414 mg | ClC1=NC=CC=C1S(=O)(=O)N(C1=NC=C(N=C1OC)C)C(=O)OCC(C)C | C16H19ClN4O5S
solvent | water | 1.6 ml | O | H2O
catalyst | Tetrakis(triphenylphosphine)palladium | 60 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | Water | 15 ml | O | H2O
solvent | toluene | 8 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | N-isobutoxycarbonyl-N-(3-methoxy-5-methylpyrazin-2-yl)-2-(4-[pyrimidin-2-yl]phenyl)pyridine-3-sulphonamide | 95 mg | C(C(C)C)OC(=O)N(S(=O)(=O)C=1C(=NC=CC1)C1=CC=C(C=C1)C1=NC=CC=N1)C1=NC=C(N=C1OC)C | C26H26N6O5S
